US06613781B2
Preparation of tert-Butyl 4-{[5-fluoro-1-(phenylsulfonyl)-1H-indol-3-yl)methyl]-1-piperidinecarboxylate
A stirred solution of tert-butyl 4-[(5-fluoro-1H-indol-3-yl)methyl]-1-piperidinecarboxylate (665 mg, 2.0 mmol) in tetrahydrofuran is treated with NaH (60% in mineral oil, 120 mg, 3.0 mmol) portion-wise, under nitrogen, at room temperature, stirred for 0.5 hr, treated with benzenesulfonyl chloride (0.38 ml, 3.0 mmol), stirred for 18 hr under nitrogen at room temperature, quenched with water and diluted with ethyl acetate. The resultant phases are separated and the organic phase is washed with water and saturated NaCl, dried over MgSO4 and concentrated in vacuo. The resultant residue is purified by flash chromatography (silica gel, EtOAc/hexane, 2/8) to afford the title compound as a white solid, 740 mg, mp 155-157° C., identified by NMR and mass spectral analyses.

reactant | tert-butyl 4-[(5-fluoro-1H-indol-3-yl)methyl]-1-piperidinecarboxylate | 2.0 mmol, 665 mg | FC=1C=C2C(=CNC2=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C | C19H25FN2O2
reactant | NaH | 3.0 mmol, 120 mg | [H-].[Na+]
reactant | benzenesulfonyl chloride | 3.0 mmol, 0.38 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tert-Butyl 4-{[5-fluoro-1-(phenylsulfonyl)-1H-indol-3-yl)methyl]-1-piperidinecarboxylate | FC=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1)CC1CCN(CC1)C(=O)OC(C)(C)C | C25H29FN2O4S
